US04033994
A mixture of p-menth-3-oyl chloride (2 g.) and glycerol (20 ml.) was heated at 100° for 4 hours. The mixture was then poured into water (600 ml.) and extracted 3 times with ether. The extracts were dried (MgSO4) and the solvent removed under reduced pressure to leave 1,2-bis-(p-menth-3-oyl)glycerol as a colourless oil (1.2 g.).

reactant | p-menth-3-oyl chloride | 2 g | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
reactant | glycerol | 20 ml | OCC(O)CO | C3H8O3
solvent | water | 600 ml | O | H2O
product | 1,2-bis-(p-menth-3-oyl)glycerol | C1(CC(C(CC1)C(C)C)C(=O)OCC(OC(=O)C1CC(CCC1C(C)C)C)CO)C | C25H44O5
